US04329465
Upon completion of the addition, the mixture was heated at reflux for one hour, then cooled to room temperature. A solution of 15.1 g. (0.065 mole) of 12-methylene-6-oxo-5,6,7,12-tetrahydrodibenzo[a,d]cyclooctene in 100 ml. of ether was added over 5 minutes to the stirred Grignard solution, and the resulting mixture was stirred for one hour at room temperature and quenched in 1 liter of ice water containing 5 g. of ammonium chloride. The resulting suspension was extracted three times with ether (200 ml.), and the combined ether layers were washed once with dilute aqueous sodium bisulfite, once with dilute sodium bicarbonate, and twice with water. The washed ether solution was dried over potassium carbonate, filtered, and evaporated in vacuo to give 6-hydroxy-6-methyl-12-methylene-5,6,7,12-tetrahydrodibenzo[a,d]cyclooctene as a colorless oil, 17.7 g.

reactant | 12-methylene-6-oxo-5,6,7,12-tetrahydrodibenzo[a,d]cyclooctene | 0.065 mole | C=C1C2=C(CC(CC3=C1C=CC=C3)=O)C=CC=C2 | C17H14O
reactant | ether | CCOCC | C4H10O
product | 6-hydroxy-6-methyl-12-methylene-5,6,7,12-tetrahydrodibenzo[a,d]cyclooctene | OC1(CC2=C(C(C3=C(C1)C=CC=C3)=C)C=CC=C2)C | C18H18O
